US06107307
A solution of 4-bromoisoquinoline in tetrahydrofuran is cooled to -78° C. To this solution is added dropwise n-butyllithium (1.6 M in hexane), and the resultant solu-tion is stirred for 30 minutes. To this solution is then added dropwise triisopropylborate and the reaction mixture is then stirred for 18 hours at room temperature. The reaction mixture is then partitioned between ethyl acetate and saturated aqueous sodium chloride. The phases are separated and the aqueous phase extracted well with ethyl acetate. The combined organic phases are washed with saturated aqueous sodium chloride, dried over sodium sulfate and concentrated under reduced pressure. The residue is sonicated in a mixture of hexane:ethyl acetate. The resulting suspension is filtered to provide isoquinolin-4-ylboronic acid.

reactant | 4-bromoisoquinoline | BrC1=CN=CC2=CC=CC=C12 | C9H6BrN
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | triisopropylborate | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | isoquinolin-4-ylboronic acid | C1=NC=C(C2=CC=CC=C12)B(O)O | C9H8BNO2
